US07179801B2
To a suspension of 5-amino-1-(2-hydroxyethyl)pyrazole-4-carbonitrile (10 g, 65.7 mmol) and pyridine (100 ml) was added triphenylmethyl chloride (22.3 g, 78.9 mmol) at room temperature. After stirring at 60° C. for 6 hours, the reaction mixture was concentrated in vacuo. To the residue were added tetrahydrofuran and brine, and the separated organic layer was washed with brine. The extract was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was triturated with ethyl acetate to give 5-amino-1-[2-(trityloxy)ethyl]pyrazole-4-carbonitrile (25.4 g) as a colorless solid.

reactant | 5-amino-1-(2-hydroxyethyl)pyrazole-4-carbonitrile | 65.7 mmol, 10 g | NC1=C(C=NN1CCO)C#N | C6H8N4O
reactant | triphenylmethyl chloride | 78.9 mmol, 22.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-amino-1-[2-(trityloxy)ethyl]pyrazole-4-carbonitrile | 25.4 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C#N | C25H22N4O
